US04994459
Step (1) Preparation of 3-[(4-Amino)phenoxy]-1-propene
To 3-[(4-nitro)phenoxy]-1-propene prepared by the process of Example 1, Step 1, (12.65 g, 70.67 mmol) in concentrated HCl (85 mL) at 0° C. was slowly added stannous chloride (48 g, 212 mmol). After stirring for 20 minutes at 55° C., the mixture was cooled to 0° C. and carefully basified with 50% NaOH. The cloudy mixture was extracted with ether. The organic phase was decolorized (charcoal), dried (MgSO4), and concentrated to afford product (8.50 g, 81%) as a yellow oil which was used directly in the next step.

reactant | 3-[(4-nitro)phenoxy]-1-propene | [N+](=O)([O-])C1=CC=C(OCC=C)C=C1 | C9H9NO3
reactant | NaOH | [OH-].[Na+]
solvent | HCl | 85 mL | Cl | ClH
product | 3-[(4-Amino)phenoxy]-1-propene | 8.50 g, 81% | NC1=CC=C(OCC=C)C=C1 | C9H11NO
